US08106190B2
Aluminum chloride and tert-butyl chloride were added under ice-cooling to 2-fluorophenol and stirred at room temperature. By adding water to the reaction liquid, concentrating the organic layer under a reduced pressure and crystallizing from hexane, 4-tert-butyl-2-fluorophenol was obtained.

reactant | Aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | tert-butyl chloride | C(C)(C)(C)Cl | C4H9Cl
reactant | 2-fluorophenol | FC1=C(C=CC=C1)O | C6H5FO
solvent | water | O | H2O
product | 4-tert-butyl-2-fluorophenol | C(C)(C)(C)C1=CC(=C(C=C1)O)F | C10H13FO
